US06641797B2
a) 1,2,3,4,6-Penta-O-acetyl-α,β-D-mannopyranose
Analogously to what is described in the literature [M. L. Wolfrom and A. Thompson in Methods in Carbohydrate Chemistry (R. L. Whistler, M. L. Wolfrom and J. N. BeMiller, Eds.), Academic Press, New York, Vol. II, 53, pp. 211-215, (1963)], the reaction of 150 g (832.5 mmol) of α,β-D-mannopyranose with a mixture that consists of 1500 ml of absolute pyridine and 1500 ml of acetic acid anhydride yields, after working-up, 315 g (96.7%) of the above-mentioned title compound as a crude product in the form of a viscous and colorless oil. By 1H-NMR spectroscopic study of the thus obtained title compound, it was possible to determine the α to β ratio of both anomers at 4:1. Separation of α,β-anomers of the above-mentioned title compound can be eliminated to perform the subsequent reaction step.

reactant | α,β-D-mannopyranose | 832.5 mmol, 150 g | OC1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
reactant | acetic acid anhydride | 1500 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1500 ml | N1=CC=CC=C1 | C5H5N
product | 1,2,3,4,6-Penta-O-acetyl-α,β-D-mannopyranose | 315 g, 96.7% | C(C)(=O)OC1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
